US07138397B2
15 ml of a chloroform solution containing 500 mg of N-tert-butoxycarbonyl-trans-1,4-cyclohexanediamine and 540 mg of 3-nitrophthalic anhydride was refluxed for 1 hour. After cooling, 756 mg of carbonyldiimidazole was added to the mixture and the resulting mixture was stirred at room temperature for 15 hours. Water was added to the reaction mixture and the resulting mixture was extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel flash column chromatography to obtain 900 mg of N-tert-butoxycarbonyl-trans-4-(1,3-dioxo-4-nitro-2-isoindolinyl)cyclohexylamine.

reactant | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
reactant | N-tert-butoxycarbonyl-trans-1,4-cyclohexanediamine | 500 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)N | C11H22N2O2
reactant | 3-nitrophthalic anhydride | 540 mg | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | carbonyldiimidazole | 756 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | Water | O | H2O
product | N-tert-butoxycarbonyl-trans-4-(1,3-dioxo-4-nitro-2-isoindolinyl)cyclohexylamine | 900 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC(=C2C1=O)[N+](=O)[O-])=O | C19H23N3O6
